US08440595B2
A suspension of 8-amino-3-iodo-6-methoxyquinoline (2.0 g) in HBr (20 ml) cooled to 0° C. is treated with a solution of sodium nitrite (0.48 g) in water (4 ml). The thick cold suspension is then added portionwise to a purple solution of CuBr2 (1.64 g) in 10 ml of conc. HBr preheated at 60° C. After 3 h an aqueous solution of NH4OH is added to the mixture to reach pH 14. After filtration of the mixture the filtrate is purified by flash chromatography (CH2Cl2) providing 8-bromo-3-iodo-6-methoxyquinoline (2.2 g) as a pale yellow solid. 1H NMR (CDCl3) δ ppm: 8.92 (1H, d); 8.32 (1H, d); 7.65 (1H, d); 6.82 (1H, d); 3.87 (3H, s).

reactant | 8-amino-3-iodo-6-methoxyquinoline | 2.0 g | NC=1C=C(C=C2C=C(C=NC12)I)OC | C10H9IN2O
reactant | sodium nitrite | 0.48 g | N(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
reactant | HBr | 20 ml | Br | BrH
reactant | HBr | 10 ml | Br | BrH
solvent | water | 4 ml | O | H2O
product | 8-bromo-3-iodo-6-methoxyquinoline | 2.2 g | BrC=1C=C(C=C2C=C(C=NC12)I)OC | C10H7BrINO
